US03995056
1300 ml of a methylene chloride solution titrating 12.5 g/liter of diazomethane was added progressively at 10°-15° C to a solution of 50 g of m-benzoyl-phenyl acetic acid in 500 ml of methylene chloride and after stirring for 15 minutes, excess diazomethane was destroyed by the addition of acetic acid. The organic solution was washed with an aqueous saturated sodium bicarbonate solution and then with water and evaporated to dryness under reduced pressure to obtain 52.5 g of methyl m-benzoyl-phenyl-acetate which was used as is for the α-alkylation step.

reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | m-benzoyl-phenyl acetic acid | 50 g | C(C1=CC=CC=C1)(=O)C=1C=C(C=CC1)CC(=O)O | C15H12O3
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1300 ml | C(Cl)Cl | CH2Cl2
product | methyl m-benzoyl-phenyl-acetate | 52.5 g | C(C1=CC=CC=C1)(=O)C=1C=C(C=CC1)CC(=O)OC | C16H14O3
